US05597842
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride (3.94 g, 15.4 mmol), K2CO3 (3.67 g, 26.6 mmole), N-[3-(3-bromopropoxy)-4-methoxyphenyl]acetamide (5.56 g, 18.6 mmol) in dimethylformamide (75 ml) and acetonitrile (100 ml) was heated at 100° C. for 3 hours. At the end of the reaction, the solvent was concentrated and the mixture was extracted into dichloromethane (500 ml). The organic solution was washed with water (500 ml) and brine (400 ml), dried, then concentrated to a crude oil. The purification was effected by flash chromatography over a silica gel column (SiO2, 65 g, eluted with 1% CH3OH:dichloromethane, 1.2 l; and 3% CH3OH:dichloromethane, 500 ml). The material thus obtained weighed 2.33 g (34.3%) as an oil. This material was dissolved in ethanol and treated with a solution of fumatic acid (661 mg) in ethanol. The N-[3-[3-[4-(6-fluoro-1,2 benzisoxazol-3-yl)-1-piperidinyl]propoxy]-4-methoxyphenyl]acetamide hemifumarate was obtained as off-white crystals weighing 2.17 g, m.p.=205°-206° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride | 15.4 mmol, 3.94 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | K2CO3 | 26.6 mmole, 3.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-[3-(3-bromopropoxy)-4-methoxyphenyl]acetamide | 18.6 mmol, 5.56 g | BrCCCOC=1C=C(C=CC1OC)NC(C)=O | C12H16BrNO3
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | N-[3-[3-[4-(6-fluoro-1,2 benzisoxazol-3-yl)-1-piperidinyl]propoxy]-4-methoxyphenyl]acetamide hemifumarate | C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC=2C=C(C=CC2OC)NC(C)=O)C=C1.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC=2C=C(C=CC2OC)NC(C)=O)C=C1 | InChI=1S/2C24H28FN3O4.C4H4O4/c2*1-16(29)26-19-5-7-21(30-2)23(15-19)31-13-3-10-28-11-8-17(9-12-28)24-20-6-4-18(25)14-22(20)32-27-24;5-3(6)1-2-4(7)8/h2*4-7,14-15,17H,3,8-13H2,1-2H3,(H,26,29);1-2H,(H,5,6)(H,7,8)/b;;2-1+
